US07932399B2
2-(5,6-Dichloro-1H-benzoimidazol-2-yl)-3-ethyl-1,1,1-trifluoro-penta-3,4-dien-2-ol (#62)
1-(5,6-Dichloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone (2 g), 1-bromo-2-pentyne (1.1 ml) and indium (983 mg) were suspended in THF (15 mL) and H2O (45 mL) and stirred vigorously overnight. The reaction mixture was then diluted with water and ethyl acetate, the layers were separated and the aqueous layer was extracted with ethyl acetate. The combined extracts were washed with brine and dried over Na2SO4 to yield a crude material. The crude material was purified by column chromatography (SiO2; 5-30% ethyl acetate/hexanes) to yield the title compound as a peach-colored solid.

reactant | 1-(5,6-Dichloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone | 2 g | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)=O)C=C1Cl | C9H3Cl2F3N2O
reactant | 1-bromo-2-pentyne | 1.1 ml | BrCC#CCC | C5H7Br
reactant | indium | 983 mg | [In] | In
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | H2O | 45 mL | O | H2O
product | 2-(5,6-Dichloro-1H-benzoimidazol-2-yl)-3-ethyl-1,1,1-trifluoro-penta-3,4-dien-2-ol | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)(C(=C=C)CC)O)C=C1Cl | C14H11Cl2F3N2O
